US05171863
3-phenyl-4-furyl methanol (Compound 19)
LiAlH4 (1.0M solution in hexane 1.14 ml, 1.14 mmol) was added dropwise to a solution of ethyl-4-phenyl-3-furoate, (246 mg, assumed 1.28 mmol) in tetrahydrofuran (20 ml) at 0 degrees under argon. The solution was stirred and was allowed to warm to room temperature gradually over 1/2 hour. The mixture was quenched with saturated ammonium chloride and the organics were extracted into ethyl ether, and washed with H2O. Evaporation of the dried (magnesium sulfate) extracts gave an oil, which was purified by flash chromatography on silica using 20% ethyl acetate/hexanes. This was further purified by recrystallation (hexane/ethyl ether) to give the title compound as pale yellow crystals.

reactant | LiAlH4 | 1.14 mmol, 1.0M, 1.14 ml | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | ethyl-4-phenyl-3-furoate | C(C)OC(=O)C1=COC=C1C1=CC=CC=C1 | C13H12O3
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 3-phenyl-4-furyl methanol | C1(=CC=CC=C1)C1=COC=C1CO | C11H10O2
